Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Lidocaine
 
Attending: ___.
 
Chief Complaint:
Vaginal bleeding
 
Major Surgical or Invasive Procedure:
removal of cervical ectopic pregnancy
cervical Foley balloon
removal of cervical Foley balloon

 
History of Present Illness:
___ yo G3P1 at 7w3d by Clomid/IUI dating presenting with vaginal 
bleeding and possible cervical ectopic pregnancy on outside 
imaging today. She has had intermittent vaginal bleeding, with 
outside ultrasound on ___ showing a live SIUP, size equal to 
dates, with a sub-chorionic hematoma. She had a follow-up 
ultrasound within the past week that also showed a live SIUP, 
but with resolution of the hematoma. However, today she called 
to report heavy vaginal bleeding with some clots and "tissue," 
and had an ultrasound that was concerning for a cervical ectopic 
pregnancy with 2 gestational sacs seen - 1 intra-uterine and 1 
in the cervix. She was referred to the ED for further 
evaluation. At present she reports mild cramping/soreness but is 
overall comfortable, with decreased bleeding from earlier in the 
day. Per the ED resident, on pelvic exam the cervix is open with 
clot/?POC seen within the os, and a small amount of blood in the 
vaginal vault. 

 
Past Medical History:
OBHx: G3P1
- SVD x 1
- SAB x 1
GynHx: denies h/o abnormal Paps, STIs
MedHx: denies
SurgHx: D&E x 1

 
Social History:
Denies T/E/D.
 
Physical Exam:
Vital signs: T: 98 BP: 103/70 HR: 72 RR: 18 O2 sat: 100%RA
I/O: UOP 500cc since arrival on floor at 20:40
General: In bed, NAD
Cardiac: RRR
Pulm: CTA
Abdomen: soft, minimally tender, no masses
GU: Peripad with spotting, no active bleeding
Ext: no edema, no erythema
 
Pertinent Results:
___ 01:40PM BLOOD WBC-13.0*# RBC-4.36 Hgb-13.9 Hct-39.1 
MCV-90 MCH-32.0 MCHC-35.7* RDW-12.6 Plt ___
___ 06:47PM BLOOD Hct-31.3*
___ 11:20AM BLOOD WBC-8.4 RBC-3.43* Hgb-11.2* Hct-31.9* 
MCV-93 MCH-32.6* MCHC-35.0 RDW-12.3 Plt ___
___ 07:35AM BLOOD WBC-6.5 RBC-3.33* Hgb-10.8* Hct-31.6* 
MCV-95 MCH-32.3* MCHC-34.0 RDW-12.2 Plt ___
.
Early OB U/S < 14 weeks; TV OB U/S (___):
IMPRESSION: 
1. Single living intrauterine gestation with size equals dates. 
2. Gestational sac within the cervix is unchanged in size and 
position.  
Non-living embryonic pole size measures 1 week less than dates 
with no cardiac activity. Again, this could represent a 
spontaneous abortion in progress versus a cervical ectopic. 
Close clinical correlation with beta hCG and/or ultrasound 
followup is recommended. 
3. Fibroid uterus.
.

 
Brief Hospital Course:
Ms. ___ was admitted for observation given her heterotopic 
cervical pregnancy and vaginal bleeding. Her bleeding slowed and 
on hospital day #3, she underwent an uncomplicated removal of 
the cervical ectopic pregnancy with placement of an 
intra-cervical Foley balloon and Prolene stitch as cerclage 
given the steady, slow bleeding post-procedure; see operative 
report for details. She had an uncomplicated recovery with 
removal of the Foley/cerclage and discharge home on hospital day 
#5, post-operative day #2 in stable condition, with live IUP 
seen on u/s following Foley balloon removal the day of 
discharge. 

 
Medications on Admission:
Pre-natal vitamins
 
Discharge Medications:
1. Prenatal  Oral
2. acetaminophen 500 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical ectopic pregnancy and live intra-uterine pregnancy
Vaginal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you while you were in the 
hospital. You were admitted because you told us about vaginal 
bleeding. On your third day of hospitalization, we took you to 
the operating room and removed the products of ectopic pregnancy 
from the cervix. Your intra-uterine pregnancy was confirmed to 
be live pre- and post-procedure using ultrasound imaging. To 
stop the steady, slow bleeding we saw after the procedure, we 
placed a balloon catheter in your cervix with two stitches to 
hold the balloon in place. After two days, we removed both the 
catheter and the stitches. You recovered well from the 
procedure, with pain well-controlled on no medications. 
.
General instructions:
* A small amount of vaginal spotting over the next few days is 
normal.
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity, nothing in the vagina (no tampons, no 
douching, no sex), no heavy lifting of objects >10lbs for 6 
weeks. 
* You may eat a regular diet.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___